US07858784B2
Synthesis of 3,5-Dimethoxy-N-methylaniline (FIG. 11, Table 7, Entry 2)
Following general procedure A, a mixture of 3,5-dimethoxychlorobenzene (173 mg, 1.0 mmol), 2M methylamine (1 mL, 2.0 mmol), NaOt-Bu (120 mg, 1.2 mmol), BrettPhos precatalyst 10 (8 mg, 0.01 mmol), and t-BuOH (1 mL) was stirred at room temperature for 2 h. The crude product was purified via column chromatography (80:20 to 50:50 Hexanes/EtOAc gradient) to provide the title compound as a pale yellow liquid (150 mg, 90%). 1H NMR (400 MHz, CDCl3) δ: 5.89 (t, J=2.2 Hz, 1H), 5.80 (t, J=2.2 Hz, 2H), 3.76 (s, 7H), 2.81 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 161.9, 151.5, 91.4, 89.7, 55.3, 30.9 ppm. Brown, F. J.; Bernstein, P. R.; Cronk, L. A.; Dosset, D. L.; Hebbel, K. C.; Maduskuie, T. P.; Shapiro, H. S.; Vacek, E. P.; Yee, Y. K.; Willard, A. K.; Krell, R. D.; Snyder, D. W. J. Med. Chem. 1989, 32, 807.

reactant | 3,5-dimethoxychlorobenzene | 1.0 mmol, 173 mg | COC=1C=C(C=C(C1)OC)Cl | C8H9ClO2
reactant | methylamine | 2.0 mmol, 2M, 1 mL | CN | CH5N
reactant | NaOt-Bu | 1.2 mmol, 120 mg | CC(C)(C)[O-].[Na+]
catalyst | BrettPhos precatalyst | 0.01 mmol, 8 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | t-BuOH | 1 mL | CC(C)(C)O | C4H10O
product | 3,5-Dimethoxy-N-methylaniline | 150 mg, 90% | COC=1C=C(NC)C=C(C1)OC | C9H13NO2
